US04894386
A solution of N-butylindole-5-acetamide (1.0 g) in dimethylformamide (15 ml) was added to a slurry of sodium hydride (0.11 g) in dimethylformamide (7 ml) at 0° under a nitrogen atmosphere, stirred for 1 hr at 0° and treated with iodomethane (0.3 ml). The reaction was quenched with saturated ammonium chloride solution and diluted with water. The precipitate that formed was collected by filtration, washed with water, and dried under vaccum to give N-butyl-1-methyl-indole-5-acetamide (0.46 g, 43%) as a pale yellow powder: NMR (250 MHz, CDCl3): 0.84(t, 3H, N(CH2)3CH3), 1.38-1.17(m, 4H, NCH2 (CH2)2), 3.16(q, 2H, NCH2), 3.67(s, 2H, ArCH2), 3.80(s, 3H, NCH3), 5.43(br, 1H, NH), 6.45(d, 1H, H2 -indole).

reactant | N-butylindole-5-acetamide | 1.0 g | C(CCC)NC(CC=1C=C2C=CNC2=CC1)=O | C14H18N2O
reactant | sodium hydride | 0.11 g | [H-].[Na+]
reactant | iodomethane | 0.3 ml | IC | CH3I
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 7 ml | CN(C=O)C | C3H7NO
product | N-butyl-1-methyl-indole-5-acetamide | 0.46 g, 43% | C(CCC)NC(CC=1C=C2C=CN(C2=CC1)C)=O | C15H20N2O
